US06211199B1
17.1 Synthesis of 1-(3,4,5-trimethoxybenzyl)-2-oxopyrrolidine
Combine 2-pyrrolidinone (2.85 g, 33.5 mmol) and tetrahydrofuran (70 mL). Cool to −78° C. using a dry-ice/acetone bath. Add a solution of potassium bis(trimethylsilyl)amide (67 mL, 0.5 M in toluene, 33.5 mol). After 45 minutes, add a solution of 3,4,5-trimethoxybenzyl mesylate (8.8 g, 32.02 mmol) in tetrahydrofuran (60 mL). After the addition of 3,4,5-trimethoxybenzyl mesylate is complete, heat to reflux. After 18 hours, cool the reaction mixture and partition between water and ethyl acetate. Separate the aqueous layer and extract 4 times with ethyl acetate. Dry the combined organic layers over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with ethyl acetate to give the title compound: Rf=0.35 (silica gel, ethyl acetate).

reactant | 2-pyrrolidinone | 33.5 mmol, 2.85 g | N1C(CCC1)=O | C4H7NO
reactant | potassium bis(trimethylsilyl)amide | 33.5 mol, 0.5 M, 67 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3,4,5-trimethoxybenzyl mesylate | 32.02 mmol, 8.8 g | S(C)(=O)(=O)OCC1=CC(=C(C(=C1)OC)OC)OC | C11H16O6S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 1-(3,4,5-trimethoxybenzyl)-2-oxopyrrolidine | COC=1C=C(CN2C(CCC2)=O)C=C(C1OC)OC | C14H19NO4
